US08247612B2
To a solution of 2.9 g of 4,4-dimethyl-3-(trifluoromethyl)pentyl p-toluenesulfonate and 2.0 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 30 ml of dimethyl sulfoxide was added 1.2 g of potassium carbonate at room temperature. The reaction mixture was heated to 90° C., stirred at the same temperature for 6 hours, and then allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 2.00 g of methyl 6,6-dimethyl-5-trifluoromethyl-2-(3,3,3-trifluoropropylsulfonyl)heptanoate (hereinafter referred to as the present compound (7)).

reactant | 4,4-dimethyl-3-(trifluoromethyl)pentyl p-toluenesulfonate | 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C(C)(C)C)C(F)(F)F)C | C15H21F3O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.0 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | methyl 6,6-dimethyl-5-trifluoromethyl-2-(3,3,3-trifluoropropylsulfonyl)heptanoate | 2.00 g | CC(C(CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)C(F)(F)F)(C)C | C14H22F6O4S
